* Created by KLayout
*** My special header ***

* cell tr_1um_SiCA02
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_SiCA02 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9 VDD VSS
* cell instance $2 r0 *1 -97.6,460.4
X$2 P1 P15 P13 P3 P14 \$1 P2 P4 VSS 1bitCPU_Fukushima_Ayato
* cell instance $3 r0 *1 0,0
X$3 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $5 r0 *1 -436,-689
X$5 P11 \$27 \$27 P7 P6 P10 P5 VSS P10 P10 opamp_r2r_OPamp_zawa
.ENDS tr_1um_SiCA02

* cell opamp_r2r_OPamp_zawa
* pin INM_P,INP_P,VDD
* pin AB_N
* pin 
* pin 
* pin 
* pin OUT
* pin VB
* pin VSS
* pin 
* pin 
.SUBCKT opamp_r2r_OPamp_zawa INM_P|INP_P|VDD AB_N \$102 \$131 \$132 OUT VB VSS
+ \$I1292 \$I1291
* device instance $1 m90 *1 -193.5,42.8 PMOS
XM$1 BNO VB INM_P|INP_P|VDD INM_P|INP_P|VDD PMOS L=4u W=12u AS=25.8p AD=25.8p
+ PS=26.6u PD=26.6u
* device instance $3 r0 *1 -250.1,42.8 PMOS
XM$3 BNI VB INM_P|INP_P|VDD INM_P|INP_P|VDD PMOS L=4u W=12u AS=25.8p AD=25.8p
+ PS=26.6u PD=26.6u
* device instance $5 r0 *1 -157.9,3.8 PMOS
XM$5 BPI INM_P|INP_P|VDD INM_P|INP_P|VDD INM_P|INP_P|VDD PMOS L=4u W=12u
+ AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $7 r0 *1 -110.9,84.8 PMOS
XM$7 \$221 BPI INM_P|INP_P|VDD INM_P|INP_P|VDD PMOS L=4u W=12u AS=25.8p
+ AD=25.8p PS=26.6u PD=26.6u
* device instance $9 r0 *1 -110.9,42.8 PMOS
XM$9 \$156 BPI \$221 INM_P|INP_P|VDD PMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u
+ PD=26.6u
* device instance $11 r0 *1 -110.9,3.8 PMOS
XM$11 BPI BPI \$156 INM_P|INP_P|VDD PMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u
+ PD=26.6u
* device instance $13 r0 *1 55.3,3.8 PMOS
XM$13 BPF BPF \$157 INM_P|INP_P|VDD PMOS L=4u W=24u AS=43.8p AD=43.8p PS=44.6u
+ PD=44.6u
* device instance $17 r0 *1 55.3,84.8 PMOS
XM$17 \$225 \$157 INM_P|INP_P|VDD INM_P|INP_P|VDD PMOS L=4u W=24u AS=43.8p
+ AD=43.8p PS=44.6u PD=44.6u
* device instance $21 r0 *1 -4.7,84.8 PMOS
XM$21 \$224 BPO INM_P|INP_P|VDD INM_P|INP_P|VDD PMOS L=4u W=24u AS=43.8p
+ AD=43.8p PS=44.6u PD=44.6u
* device instance $25 r0 *1 -64.7,84.8 PMOS
XM$25 \$222 BPO INM_P|INP_P|VDD INM_P|INP_P|VDD PMOS L=4u W=24u AS=43.8p
+ AD=43.8p PS=44.6u PD=44.6u
* device instance $29 r0 *1 -64.7,42.8 PMOS
XM$29 BPO BPI \$222 INM_P|INP_P|VDD PMOS L=4u W=24u AS=43.8p AD=43.8p PS=44.6u
+ PD=44.6u
* device instance $33 r0 *1 55.3,42.8 PMOS
XM$33 \$157 BPI \$225 INM_P|INP_P|VDD PMOS L=4u W=24u AS=43.8p AD=43.8p
+ PS=44.6u PD=44.6u
* device instance $37 r0 *1 -4.7,42.8 PMOS
XM$37 BNF BPI \$224 INM_P|INP_P|VDD PMOS L=4u W=24u AS=43.8p AD=43.8p PS=44.6u
+ PD=44.6u
* device instance $41 r180 *1 1157.3,51.6 PMOS
XM$41 INM_P|INP_P|VDD AB_P OUT INM_P|INP_P|VDD PMOS L=4u W=540u AS=833.4p
+ AD=833.4p PS=650.6u PD=650.6u
* device instance $59 r180 *1 1031.3,51.6 PMOS
XM$59 INM_P|INP_P|VDD AB_P \$I1291 INM_P|INP_P|VDD PMOS L=4u W=36u AS=54p
+ AD=54p PS=42u PD=42u
* device instance $73 r0 *1 413.9,53.3 PMOS
XM$73 \$69 INM_P|INP_P|VDD \$188 INM_P|INP_P|VDD PMOS L=4u W=24u AS=51.6p
+ AD=51.6p PS=44.6u PD=44.6u
* device instance $75 r0 *1 603.9,98.3 PMOS
XM$75 \$107 AB_P INM_P|INP_P|VDD INM_P|INP_P|VDD PMOS L=4u W=24u AS=51.6p
+ AD=51.6p PS=44.6u PD=44.6u
* device instance $77 r0 *1 593.9,143.3 PMOS
XM$77 \$159 INM_P|INP_P|VDD INM_P|INP_P|VDD INM_P|INP_P|VDD PMOS L=4u W=24u
+ AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $79 r0 *1 649.9,143.3 PMOS
XM$79 \$382 \$382 INM_P|INP_P|VDD INM_P|INP_P|VDD PMOS L=4u W=24u AS=51.6p
+ AD=51.6p PS=44.6u PD=44.6u
* device instance $81 m90 *1 562.3,53.3 PMOS
XM$81 AB_N INM_P|INP_P|VDD AB_P INM_P|INP_P|VDD PMOS L=4u W=24u AS=51.6p
+ AD=51.6p PS=44.6u PD=44.6u
* device instance $83 m90 *1 470.3,53.3 PMOS
XM$83 \$69 BPF \$188 INM_P|INP_P|VDD PMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u
+ PD=44.6u
* device instance $85 r0 *1 505.9,53.3 PMOS
XM$85 AB_N BPF AB_P INM_P|INP_P|VDD PMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u
+ PD=44.6u
* device instance $87 r0 *1 649.9,98.3 PMOS
XM$87 \$106 \$106 \$382 INM_P|INP_P|VDD PMOS L=4u W=24u AS=51.6p AD=51.6p
+ PS=44.6u PD=44.6u
* device instance $89 r0 *1 207.8,107.9 PMOS
XM$89 INM_P|INP_P|VDD \$132 INM_P|INP_P|VDD INM_P|INP_P|VDD PMOS L=4u W=48u
+ AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $93 r0 *1 275.4,108 PMOS
XM$93 INM_P|INP_P|VDD \$131 INM_P|INP_P|VDD INM_P|INP_P|VDD PMOS L=4u W=48u
+ AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $97 r0 *1 273.4,201.3 PMOS
XM$97 INM_P|INP_P|VDD BPO \$497 INM_P|INP_P|VDD PMOS L=4u W=48u AS=87.6p
+ AD=87.6p PS=74.6u PD=74.6u
* device instance $101 r0 *1 207.8,154.3 PMOS
XM$101 INM_P|INP_P|VDD BPI \$496 INM_P|INP_P|VDD PMOS L=4u W=48u AS=87.6p
+ AD=87.6p PS=74.6u PD=74.6u
* device instance $105 r0 *1 275.4,154.3 PMOS
XM$105 INM_P|INP_P|VDD BPI \$497 INM_P|INP_P|VDD PMOS L=4u W=48u AS=87.6p
+ AD=87.6p PS=74.6u PD=74.6u
* device instance $109 r0 *1 207.8,201.3 PMOS
XM$109 INM_P|INP_P|VDD BPO \$496 INM_P|INP_P|VDD PMOS L=4u W=48u AS=87.6p
+ AD=87.6p PS=74.6u PD=74.6u
* device instance $113 m90 *1 530.3,98.3 PMOS
XM$113 AB_P BPI \$159 INM_P|INP_P|VDD PMOS L=4u W=48u AS=87.6p AD=87.6p
+ PS=74.6u PD=74.6u
* device instance $117 r0 *1 445.9,98.3 PMOS
XM$117 \$188 BPI \$158 INM_P|INP_P|VDD PMOS L=4u W=48u AS=87.6p AD=87.6p
+ PS=74.6u PD=74.6u
* device instance $121 r0 *1 604,53.3 PMOS
XM$121 \$315 \$106 \$159 INM_P|INP_P|VDD PMOS L=4u W=96u AS=159.6p AD=159.6p
+ PS=134.6u PD=134.6u
* device instance $129 m90 *1 558.3,143.3 PMOS
XM$129 \$159 \$188 INM_P|INP_P|VDD INM_P|INP_P|VDD PMOS L=4u W=96u AS=159.6p
+ AD=159.6p PS=134.6u PD=134.6u
* device instance $137 r0 *1 417.9,143.3 PMOS
XM$137 \$158 \$188 INM_P|INP_P|VDD INM_P|INP_P|VDD PMOS L=4u W=96u AS=159.6p
+ AD=159.6p PS=134.6u PD=134.6u
* device instance $145 r180 *1 1087.3,-27.3 NMOS
XM$145 VSS \$102 OUT VSS NMOS L=4u W=252u AS=401.4p AD=401.4p PS=314.6u
+ PD=314.6u
* device instance $153 r180 *1 1031.3,-27.3 NMOS
XM$153 VSS \$102 \$I1292 VSS NMOS L=4u W=36u AS=54p AD=54p PS=42u PD=42u
* device instance $161 r0 *1 48.3,-122.2 NMOS
XM$161 VSS BNO \$5 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $163 r0 *1 48.3,-79.4 NMOS
XM$163 BPF BNI \$5 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $165 r0 *1 -211,-122.2 NMOS
XM$165 VSS BNO \$6 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $167 r0 *1 -211,-79.4 NMOS
XM$167 BNO BNI \$6 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $169 r0 *1 -117.9,-122.2 NMOS
XM$169 VSS BNO \$9 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $171 r0 *1 -117.9,-79.4 NMOS
XM$171 BPI BNI \$9 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $173 r0 *1 -11.7,-79.4 NMOS
XM$173 \$31 BNI \$11 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $175 r0 *1 -11.7,-122.2 NMOS
XM$175 VSS \$31 \$11 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $177 r0 *1 -71.7,-122.2 NMOS
XM$177 VSS BNO \$12 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $179 r0 *1 -71.7,-79.4 NMOS
XM$179 BPO BNI \$12 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $181 r0 *1 -11.7,-36.6 NMOS
XM$181 BNF BNF \$31 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $183 r0 *1 -257.1,-123.5 NMOS
XM$183 VSS BNI \$3 VSS NMOS L=4u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $184 r0 *1 -257.1,-80.7 NMOS
XM$184 \$36 BNI \$3 VSS NMOS L=4u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $185 r0 *1 -257.1,-37.9 NMOS
XM$185 \$36 BNI BNI VSS NMOS L=4u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $186 r0 *1 -284.2,-37.9 NMOS
XM$186 VSS VSS BNI VSS NMOS L=4u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $187 r180 *1 291.1,-88 NMOS
XM$187 \$19 BNO VSS VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $189 r180 *1 223.5,-88.1 NMOS
XM$189 \$18 BNO VSS VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $191 m90 *1 511.3,-42.3 NMOS
XM$191 AB_N BNI INM_P|INP_P|VDD VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u
+ PD=44.6u
* device instance $193 r180 *1 289.9,-36.8 NMOS
XM$193 \$19 BNI \$111 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $195 r180 *1 221.9,-36.9 NMOS
XM$195 \$18 BNI \$111 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $197 r0 *1 464.9,-42.3 NMOS
XM$197 \$69 BNI INM_P|INP_P|VDD VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u
+ PD=44.6u
* device instance $199 r180 *1 221.8,11.9 NMOS
XM$199 \$111 \$132 \$159 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $201 r180 *1 289.7,11.9 NMOS
XM$201 \$111 \$131 \$158 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $203 r0 *1 586.9,-93.6 NMOS
XM$203 INM_P|INP_P|VDD VSS VSS VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u
+ PD=29.6u
* device instance $204 m90 *1 550.3,6.4 NMOS
XM$204 AB_N VSS AB_P VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
* device instance $205 r0 *1 517.9,6.4 NMOS
XM$205 AB_N BNF AB_P VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
* device instance $206 r0 *1 656.9,-43.6 NMOS
XM$206 VSS AB_N \$106 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
* device instance $207 r0 *1 616.9,-93.6 NMOS
XM$207 VSS \$44 \$44 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
* device instance $208 r0 *1 616.9,-43.6 NMOS
XM$208 \$44 \$107 \$107 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
* device instance $209 m90 *1 458.3,6.4 NMOS
XM$209 \$69 BNF \$188 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
* device instance $210 r0 *1 425.9,6.4 NMOS
XM$210 \$69 VSS \$188 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
* device instance $211 r0 *1 450.9,-92.3 NMOS
XM$211 INM_P|INP_P|VDD \$69 VSS VSS NMOS L=4u W=96u AS=175.2p AD=175.2p
+ PS=149.2u PD=149.2u
* device instance $215 r0 *1 616.9,7.7 NMOS
XM$215 \$122 \$107 INM_P|INP_P|VDD VSS NMOS L=4u W=48u AS=87.6p AD=87.6p
+ PS=74.6u PD=74.6u
* device instance $223 r90 *1 760,-37.8 F_CSIO
XC$223 \$122 OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.5999990463
+ Y=80.6000009537 m=2
* device instance $225 r90 *1 760,61.6 F_CSIO
XC$225 \$315 OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.5999990463
+ Y=80.6000009537 m=2
.ENDS opamp_r2r_OPamp_zawa

* cell 1bitCPU_Fukushima_Ayato
* pin PC0
* pin PC1
* pin PROG0
* pin RESET
* pin PROG1
* pin VDD
* pin REG0
* pin CLK
* pin VSS
.SUBCKT 1bitCPU_Fukushima_Ayato PC0 PC1 PROG0 RESET PROG1 VDD REG0 CLK VSS
* cell instance $1 r0 *1 3.2,-4.3
X$1 VDD PC0 PC1 VSS INV_X1
* cell instance $4 r0 *1 -84.8,-4.3
X$4 CLK \$27 RESET \$11 PC0 VDD VSS DFFR
* cell instance $7 r0 *1 206.7,-4.3
X$7 VDD PROG0 \$12 VSS INV_X1
* cell instance $8 r0 *1 -172.8,-4.3
X$8 CLK \$29 RESET \$I124 REG0 VDD VSS DFFR
* cell instance $14 r0 *1 223.2,-4.3
X$14 VDD PROG1 \$13 VSS INV_X1
* cell instance $15 r0 *1 261.7,-4.3
X$15 VDD \$14 \$44 \$27 VSS OR2
* cell instance $16 r0 *1 184.7,-4.3
X$16 VDD \$11 \$51 \$14 VSS AND2_X1
* cell instance $17 r0 *1 124.2,-4.3
X$17 VDD REG0 \$12 \$48 VSS AND2_X1
* cell instance $18 r0 *1 146.2,-4.3
X$18 VDD \$19 \$48 \$29 VSS OR2
* cell instance $19 r0 *1 239.7,-4.3
X$19 VDD \$13 \$12 \$44 VSS AND2_X1
* cell instance $20 r0 *1 19.7,-4.3
X$20 REG0 \$13 VDD \$24 VSS NAND2
* cell instance $21 r0 *1 69.2,-4.3
X$21 \$34 \$35 VDD \$8 VSS NAND2
* cell instance $22 r0 *1 52.7,-4.3
X$22 \$24 \$13 VDD \$35 VSS NAND2
* cell instance $23 r0 *1 36.2,-4.3
X$23 REG0 \$24 VDD \$34 VSS NAND2
* cell instance $24 r0 *1 168.2,-4.3
X$24 VDD \$12 \$51 VSS INV_X1
* cell instance $25 r0 *1 85.7,-4.3
X$25 VDD \$12 \$43 VSS INV_X1
* cell instance $26 r0 *1 102.2,-4.3
X$26 VDD \$8 \$43 \$19 VSS AND2_X1
.ENDS 1bitCPU_Fukushima_Ayato

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell DFFR
* pin CK
* pin D
* pin RST
* pin QB
* pin Q
* pin vdd
* pin gnd
.SUBCKT DFFR CK D RST QB Q vdd gnd
* device instance $1 r0 *1 75.7,44.8 PMOS
XM$1 QB \$11 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 79.7,44.8 PMOS
XM$2 vdd QB Q vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 50.9,44.8 PMOS
XM$3 vdd \$8 \$22 vdd PMOS L=1u W=10.2u AS=28.56p AD=7.14p PS=26u PD=11.6u
* device instance $4 r0 *1 53.3,44.8 PMOS
XM$4 \$22 \$5 \$10 vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $5 r0 *1 57.3,44.8 PMOS
XM$5 \$10 \$4 \$23 vdd PMOS L=1u W=10.2u AS=15.3p AD=7.14p PS=13.2u PD=11.6u
* device instance $6 r0 *1 59.7,44.8 PMOS
XM$6 \$23 \$11 vdd vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $7 r0 *1 63.7,44.8 PMOS
XM$7 vdd \$10 \$24 vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $8 r0 *1 67.7,44.8 PMOS
XM$8 \$24 RST \$11 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $9 r0 *1 6.1,44.8 PMOS
XM$9 \$2 CK vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $10 r0 *1 10.1,44.8 PMOS
XM$10 vdd \$2 \$4 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $11 r0 *1 18.1,44.8 PMOS
XM$11 \$5 \$4 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $12 r0 *1 22.1,44.8 PMOS
XM$12 vdd D \$19 vdd PMOS L=1u W=10.2u AS=15.3p AD=7.14p PS=13.2u PD=11.6u
* device instance $13 r0 *1 24.5,44.8 PMOS
XM$13 \$19 \$4 \$7 vdd PMOS L=1u W=10.2u AS=7.14p AD=28.56p PS=11.6u PD=26u
* device instance $14 r0 *1 32.5,44.8 PMOS
XM$14 \$7 \$5 \$20 vdd PMOS L=1u W=10.2u AS=28.56p AD=7.14p PS=26u PD=11.6u
* device instance $15 r0 *1 34.9,44.8 PMOS
XM$15 \$20 \$8 vdd vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $16 r0 *1 38.9,44.8 PMOS
XM$16 vdd \$7 \$21 vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $17 r0 *1 42.9,44.8 PMOS
XM$17 \$21 RST \$8 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $18 r0 *1 50.9,6.8 NMOS
XM$18 gnd \$8 \$16 gnd NMOS L=1u W=3.4u AS=9.52p AD=2.38p PS=12.4u PD=4.8u
* device instance $19 r0 *1 53.3,6.8 NMOS
XM$19 \$16 \$4 \$10 gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $20 r0 *1 57.3,6.8 NMOS
XM$20 \$10 \$5 \$17 gnd NMOS L=1u W=3.4u AS=5.1p AD=2.38p PS=6.4u PD=4.8u
* device instance $21 r0 *1 59.7,6.8 NMOS
XM$21 \$17 \$11 gnd gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $22 r0 *1 63.7,6.8 NMOS
XM$22 gnd \$10 \$11 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $23 r0 *1 67.7,6.8 NMOS
XM$23 \$11 RST gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $24 r0 *1 6.1,6.8 NMOS
XM$24 \$2 CK gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $25 r0 *1 10.1,6.8 NMOS
XM$25 gnd \$2 \$4 gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $26 r0 *1 75.7,6.8 NMOS
XM$26 QB \$11 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $27 r0 *1 79.7,6.8 NMOS
XM$27 gnd QB Q gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $28 r0 *1 18.1,6.8 NMOS
XM$28 \$5 \$4 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $29 r0 *1 22.1,6.8 NMOS
XM$29 gnd D \$14 gnd NMOS L=1u W=3.4u AS=5.1p AD=2.38p PS=6.4u PD=4.8u
* device instance $30 r0 *1 24.5,6.8 NMOS
XM$30 \$14 \$5 \$7 gnd NMOS L=1u W=3.4u AS=2.38p AD=9.52p PS=4.8u PD=12.4u
* device instance $31 r0 *1 32.5,6.8 NMOS
XM$31 \$7 \$4 \$15 gnd NMOS L=1u W=3.4u AS=9.52p AD=2.38p PS=12.4u PD=4.8u
* device instance $32 r0 *1 34.9,6.8 NMOS
XM$32 \$15 \$8 gnd gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $33 r0 *1 38.9,6.8 NMOS
XM$33 gnd \$7 \$8 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $34 r0 *1 42.9,6.8 NMOS
XM$34 \$8 RST gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS DFFR

* cell OR2
* pin vdd
* pin A
* pin B
* pin Y
* pin gnd
.SUBCKT OR2 vdd A B Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 \$4 A \$7 vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 \$7 B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $3 r0 *1 14.1,44.8 PMOS
XM$3 vdd \$4 Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $4 r0 *1 6.1,6.8 NMOS
XM$4 gnd A \$4 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $5 r0 *1 10.1,6.8 NMOS
XM$5 \$4 B gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $6 r0 *1 14.1,6.8 NMOS
XM$6 gnd \$4 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS OR2

* cell AND2_X1
* pin vdd
* pin A
* pin B
* pin Y
* pin gnd
.SUBCKT AND2_X1 vdd A B Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A \$4 vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 \$4 B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $3 r0 *1 14.1,44.8 PMOS
XM$3 vdd \$4 Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $4 r0 *1 6.1,6.8 NMOS
XM$4 \$4 A \$7 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $5 r0 *1 10.1,6.8 NMOS
XM$5 \$7 B gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $6 r0 *1 14.1,6.8 NMOS
XM$6 gnd \$4 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS AND2_X1

* cell NAND2
* pin A
* pin B
* pin vdd
* pin Y
* pin gnd
.SUBCKT NAND2 A B vdd Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 Y B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 6.1,6.8 NMOS
XM$3 gnd A \$5 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $4 r0 *1 10.1,6.8 NMOS
XM$4 \$5 B Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS NAND2

* cell INV_X1
* pin vdd
* pin A
* pin Y
* pin gnd
.SUBCKT INV_X1 vdd A Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=10.2u AS=28.56p AD=28.56p PS=26u PD=26u
* device instance $2 r0 *1 6.1,6.8 NMOS
XM$2 gnd A Y gnd NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS INV_X1

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VDD PAD|VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VSS VDD OSS_PCH_ESD
* cell instance $2 r90 *1 130,0
X$2 PAD|VSS PAD|VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $2 r90 *1 -130,0
X$2 PAD VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOSE
XM$1 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_NCH_ESD
